US05298652
A solution of 0.8 g (1.46 mmol) of 3,4-bis(tetradecyloxy)benzoic acid and 20 ml of thionyl chloride was stirred at reflux for 3 hours. The excess thionyl chloride was removed at reduced pressure and the resultant acid chloride was dissolved in 10 ml of methylene chloride and 10 ml of anhydrous THF. This solution was added dropwise to a stirred, ice cooled mixture of 0.3 ml (1.86 mmol) of dimethyl iminodiacetate and 0.41 ml (2.9 mmol) of triethylamine in 10 ml of anhydrous methylene chloride. The cooling bath was removed after 30 minutes and the mixture was left at room temperature for 18 hours. The solvents were removed at reduced pressure and the residue was extracted with ethyl acetate. The extract was washed successively with 1N HCl, with NaHCO3 solution, dried and concentrated. Crystallization from ethyl acetate-hexane gave 0.905 g (90% yield, mp 70°-71°) of N-(2-methoxy-2-oxoethyl)-N-[3,4-bis(tetradecyloxy)benzoyl]glycine methyl ester.

reactant | 3,4-bis(tetradecyloxy)benzoic acid | 1.46 mmol, 0.8 g | C(CCCCCCCCCCCCC)OC=1C=C(C(=O)O)C=CC1OCCCCCCCCCCCCCC | C35H62O4
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dimethyl iminodiacetate | 1.86 mmol, 0.3 ml | N(CC(=O)OC)CC(=O)OC | C6H11NO4
reactant | triethylamine | 2.9 mmol, 0.41 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-(2-methoxy-2-oxoethyl)-N-[3,4-bis(tetradecyloxy)benzoyl]glycine methyl ester | 0.905 g, 90% yield | COC(CN(C(C1=CC(=C(C=C1)OCCCCCCCCCCCCCC)OCCCCCCCCCCCCCC)=O)CC(=O)OC)=O | C41H71NO7
